US04028344
Preparation of 4-[1-(t-Butylazo)cyclohexyl]-1-(t-Butyl)thiosemicarbazide
To 8.7 grams (.0376 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane cooled to 5° C. and stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added dropwise 4.36 grams (.0376 moles) of a 76% aqueous solution of t-butylhydrazine. The reaction was very exothermic and rapid and was complete almost immediately after the addition was complete. Pentane was added to slurry up the solids and the mixture stirred for 1 hour at room temperature. The pentane was stripped from the reaction mixture to leave a yellow solid weighing 11.3 grams (94.5% crude yield). The product melted at 120°-122° C. and the infrared spectrum of the product had sharp strong bands at 1540 and 1520 cm-1 and sharp NH bands at 3150 and 3280 cm-1.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | .0376 moles, 8.7 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | t-butylhydrazine | C(C)(C)(C)NN | C4H12N2
solvent | pentane | CCCCC | C5H12
product | 4-[1-(t-Butylazo)cyclohexyl]-1-(t-Butyl)thiosemicarbazide | C(C)(C)(C)N=NC1(CCCCC1)NC(NNC(C)(C)C)=S | C15H31N5S
